US03983133
To a stirred solution of 8 parts of α-(aminomethyl)-3,4-dichlorobenzyl alcohol in 4.5 parts of xylene are added 5.2 parts of 2-(nitramino)-2-imidazoline. The whole is heated in an oil-bath at a temperature of about 160°C. till a clear melt is obtained (about 15 minutes). After cooling to about 60°C., the melt is dissolved in acetone and allowed to crystallize. The precipitated product is filtered off and recrystallized from 20 parts of 4-methyl-2-pentanone, yielding 3,4-dichloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol; m.p. 148°C.

reactant | α-(aminomethyl)-3,4-dichlorobenzyl alcohol | NCC(C1=CC(=C(C=C1)Cl)Cl)O | C8H9Cl2NO
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | 2-(nitramino)-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
solvent | acetone | CC(=O)C | C3H6O
product | 3,4-dichloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol | ClC=1C=C(C(CNC=2NCCN2)O)C=CC1Cl | C11H13Cl2N3O
